Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])/[C:9]([H:10])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-1.82365777246
[O:1][O:2][C@:3]1([H:4])[C:5]([H:6])[C:7]([H:8])=[C:9]1[H:10]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10],0.58004141564
[C:10]([H:11])[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.79761597325
[H:15].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.56158471471
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],2.72832542
[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.14720495791
[H:11].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.8380874135900005
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([O:7][H:8])[O:9][H:10].[H:6],2.63323462756
[H:1][C:2]#[C:3][C@@:4]1([H:5])[O:6][C:7]1[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][H:8],1.35149790375
[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.5546976351
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],3.99104723067
[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-5.62807232285
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[O:1]=[O:2],3.38584507
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.7895319138900003
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:7],1.62890555442
[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]=[O:4],2.4997423714400004
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.64987863264
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],5.24424916666
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1]=[C:2],4.046928125819997
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.73162690245
[H:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.49811130809
[C:2]([H:3])#[C:4][O:5].[O:1]>>[O:1][C:2]([H:3])=[C:4]=[O:5],-5.33488033215
[H:1].[O:2]=[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.55841261827
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][C:3]#[C:4][C:6]([H:7])([H:8])[H:9].[H:5],4.8547346216000005
[C:4]([H:5])=[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([C:3])([H:6])[H:7]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.64745064588
[H:1][O:2][C:3]#[C:4][C:5][O:7][H:8].[H:6]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][H:8],-3.82371436971
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],6.41453660864
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:12].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],4.582473921619999
